US04545936
A mixture of 9(R)-bromoacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione (1.00 g) obtained in Reference Example 4-(1), sodium octate (4.8 g) and acetone (50 ml) was stirred under reflux for 3 hours, cooled to room temperature and concentrated under reduced pressure. The residue was triturated with addition of ether (15 ml). Solid substances were filtered to give orange crystals of 9(R)-octyloxyacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione. M.P., 144°-148° C.

reactant | 9(R)-bromoacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 1.00 g | BrCC(=O)[C@]1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O | C20H15BrO6
reactant | sodium | [Na] | Na
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 9(R)-octyloxyacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | C(CCCCCCC)OCC(=O)[C@]1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O | C28H32O7
